US04699905
67(b) S-[2-Amino-1-(3-thienyl)ethyl]-N-t-butoxycarbonyl-L-cysteine
74.8 g of N-t-butoxycarbonyl-S-[2-nitro-1-(3-thienyl)ethyl]-L-cysteine were reduced with hydrogen in the presence of 10% w/w palladium-on-carbon, as described in Example 63(b), to give 50.4 g of the title compound as a powder.

reactant | N-t-butoxycarbonyl-S-[2-nitro-1-(3-thienyl)ethyl]-L-cysteine | 74.8 g | C(C)(C)(C)OC(=O)N[C@@H](CSC(C[N+](=O)[O-])C1=CSC=C1)C(=O)O | C14H20N2O6S2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
product | S-[2-Amino-1-(3-thienyl)ethyl]-N-t-butoxycarbonyl-L-cysteine | 50.4 g | NCC(C1=CSC=C1)SC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C14H22N2O4S2
